US07482113B2
Preparation of 3-oxo-2-cyanopropanoic acid n-octyl ester isoamyltriphenylphosphonium salt (CDP-8)
CDP-8 was prepared similar to the method used to prepare CDP-2 from potassium salt of 3-oxo-2-cyanopropanoic acid n-octyl ester and isoamyltriphenylphosphonium bromide in quantitative yield as a viscose orange color oily residue.

reactant | potassium | [K] | K
reactant | 3-oxo-2-cyanopropanoic acid n-octyl ester | C(CCCCCCC)OC(C(C=O)C#N)=O | C12H19NO3
reactant | isoamyltriphenylphosphonium bromide | [Br-].C(CC(C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-oxo-2-cyanopropanoic acid n-octyl ester isoamyltriphenylphosphonium salt | quantitative yield | C(CC(C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(CCCCCCC)OC(C(C=O)C#N)=O | InChI=1S/C23H26P.C12H19NO3/c1-20(2)18-19-24(21-12-6-3-7-13-21,22-14-8-4-9-15-22)23-16-10-5-11-17-23;1-2-3-4-5-6-7-8-16-12(15)11(9-13)10-14/h3-17,20H,18-19H2,1-2H3;10-11H,2-8H2,1H3/q+1;
